US04863904
To a mixture of 5 ml of dry tetrahydrofuran and 0.26 g of 50% sodium hydride (suspension in oil) were added 0.7 ml of diisopropylamine and 1.0 g of 1-naphthoxyacetic acid with stirring under an argon atmosphere under ice-cooling. The mixture was heated for 30 minutes at 50° C., and then heated under reflux for 15 minutes. After cooling below 5° C., to the reaction mixture was added dropwise 3.5 ml of n-butyllithium (as a 1.6 mole hexane solution), the mixture was stirred below 10° C. for 20 minutes, and then warmed for 20 minutes at 30° C. After cooling below 5° C. again, 1.00 g of 4-phenylbutyl bromide was added to the reaction mixture. The mixture was stirred for 30 minutes at below 5° C., and then warmed for 1 hour at 30° C. with stirring. After cooling, the reaction mixture was washed with diethyl ether to remove neutral materials. The aqueous layer was acidified by adding concentrated hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel flash column chromatography (eluent: benzene) to obtain 0.37 g of (±)-2-(1-naphthoxy)-6-phenylhexanoic acid as colorless crystals.

reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | diisopropylamine | 0.7 ml | C(C)(C)NC(C)C | C6H15N
reactant | 1-naphthoxyacetic acid | 1.0 g | C1(=CC=CC2=CC=CC=C12)OCC(=O)O | C12H10O3
reactant | n-butyllithium | 3.5 ml | C(CCC)[Li]
reactant | hexane | 1.6 mole | CCCCCC | C6H14
reactant | 4-phenylbutyl bromide | 1.00 g | C1(=CC=CC=C1)CCCCBr | C10H13Br
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (±)-2-(1-naphthoxy)-6-phenylhexanoic acid | 0.37 g | C1(=CC=CC2=CC=CC=C12)OC(C(=O)O)CCCCC1=CC=CC=C1 | C22H22O3
